US07939537B2
Step 2: N-(4-Fluorobenzyl)-3-hydroxy-9-(benzyloxy)-4-oxo-4H-pyrido[1,2-a]pyrimidine-2-carboxamide
To a solution of methyl 9-(benzyloxy)-3-hydroxy-4-oxo-4H-pyrido[1,2-a]pyrimidine-2-carboxylate in MeOH was added p-fluorobenzylamine. The solution was stirred at 80° C. for 24 hours. The solvent was removed under reduced pressure and the residue washed with diethylether. The product was purified by preparative RP-HPLC, using water (0.1% TFA) and acetonitrile (0.1% TFA) as eluants (column: C18). The product was obtained after lyophilization of the pooled product fractions as bright yellow fluffy material.

reactant | methyl 9-(benzyloxy)-3-hydroxy-4-oxo-4H-pyrido[1,2-a]pyrimidine-2-carboxylate | C(C1=CC=CC=C1)OC1=CC=CN2C1=NC(=C(C2=O)O)C(=O)OC | C17H14N2O5
reactant | p-fluorobenzylamine | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | MeOH | CO | CH4O
product | N-(4-Fluorobenzyl)-3-hydroxy-9-(benzyloxy)-4-oxo-4H-pyrido[1,2-a]pyrimidine-2-carboxamide | FC1=CC=C(CNC(=O)C=2N=C3N(C(C2O)=O)C=CC=C3OCC3=CC=CC=C3)C=C1 | C23H18FN3O4
